US06613743B2
3-amino-N1-isopropoxy-1-benzenesulfonamide.
To a Parr H2 vessel containing 5% Pd/BaSO4 (0.350g) was added a methanolic solution (125 mL) of N1-isopropoxy-3-nitro-1-benzenesulfonamide (3.50 g, 0.0135 mol) at rt under Ar atm. The solution was hydrogenated at 45psi for approx. 1.0 h. The reaction mixtire was filtered (1/2″ celite pad) and evaporated to give the product as yellow crystalline solid 2.90 g (96%). 1H NMR (CDCl3) 1.20(d,25H); 4.27(m,1H) 7.05(s,1H); 7.75(1,1H); 8.22(d,1H); 8.48 (dd,1H); 8.74(t, 1H).

reactant | N1-isopropoxy-3-nitro-1-benzenesulfonamide | 0.0135 mol, 125 mL, 3.50 g | C(C)(C)ONS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H12N2O5S
catalyst | Pd BaSO4 | 0.350g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 3-amino-N1-isopropoxy-1-benzenesulfonamide | 2.90 g, 96% | NC=1C=C(C=CC1)S(=O)(=O)NOC(C)C | C9H14N2O3S
